US04914188
Step 6: N-Methyl-L-Leucyl-L-Valyl-N-Methyl-L-Alanyl-L-Alanine Benzyl Ester
A solution of 15.7 g (0.0266 mole) of Boc-N-methyl-L-leucyl-L-valyl-N-methyl-L-alanyl-L-alanine benzyl ester in 125 ml of dry dichloromethane was stirred and cooled to -10° C. while 70 ml trifluoroacetic acid, previously cooled at -15° C., was added. After 2 hours, the reaction was carefully added with good stirring to a mixture of 105 g of sodium bicarbonate, ice, and 200 ml of dichloromethane. The organic layer was separated and the aqueous layer was extracted with another 50 ml of dichloromethane. The combined organic layers were washed with 3×80 ml of saturated sodium bicarbonate solution, dried over magnesium fulfate, and evaporated leaving 11.85 g (91% of theory) of product. The FAB m.s. showed a molecular ion peak at 491.

reactant | Boc-N-methyl-L-leucyl-L-valyl-N-methyl-L-alanyl-L-alanine benzyl ester | 0.0266 mole, 15.7 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N(C)C([C@@H](NC([C@@H](N(C)C(=O)OC(C)(C)C)CC(C)C)=O)C(C)C)=O)C)=O)C)=O | C31H50N4O7
reactant | trifluoroacetic acid | 70 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 105 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-Methyl-L-Leucyl-L-Valyl-N-Methyl-L-Alanyl-L-Alanine Benzyl Ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N(C)C([C@@H](NC([C@@H](NC)CC(C)C)=O)C(C)C)=O)C)=O)C)=O | C26H42N4O5
